US09422312B2
Step 1: N-[Azetidin-1-yl(methyl)oxo-λ6-sulfanylidene]-4-bromoaniline
The title compound is prepared from N-(4-bromophenyl)methanesulfinamide and azetidine following a procedure analogous to that described for Intermediate 3 (Step 2). LC (method 1): tR=0.92 min; Mass spectrum (ESI+): m/z=289, 291 [M+H]+.

reactant | N-(4-bromophenyl)methanesulfinamide | BrC1=CC=C(C=C1)NS(=O)C | C7H8BrNOS
reactant | azetidine | N1CCC1 | C3H7N
product | N-[Azetidin-1-yl(methyl)oxo-λ6-sulfanylidene]-4-bromoaniline | N1(CCC1)S(=NC1=CC=C(C=C1)Br)(=O)C | C10H13BrN2OS
